US04619783
p-Nitrobenzyl 2-(4-Ethylthio-2-oxo-1-azetidinyl)-2-chloroacetate
To a stirred solution of 6.8 g. of p-nitrobenzyl 2-(4-ethylthio-2-oxo-1-azetidinyl)-2-hydroxyacetate in 200 ml. of tetrahydrofuran, at 0°-5° C., was added 2.98 ml. of 2,6-dimethylpyridine, followed by dropwise addition of a solution of 1.73 ml. of thionyl chloride in 20 ml. of tetrahydrofuran, over a 5-minute period. Stirring was continued at 0°-5° C. for 15 minutes, and then the reaction mixture was filtered. The filtrate was evaporated to dryness in vacuo, and the residue was dissolved in 200 ml. of dichloromethane. The resulting solution was washed successively with dilute hydrochloric acid and water, and then dried over anhydrous sodium sulfate. Evaporation in vacuo gave 7.12 g of the title compound as a yellow, viscous liquid. The IR spectrum chloroform of the product showed an absorption at 5.63 microns. The NMR spectrum deuterochloroform of the product showed peaks at 1.3 (t, 3H); 2.47-3.7 (m, 4H); 4.9-5.3 (m, 1H); 5.4 (s, 4H); 6.06 and 6.18 (ss, 1H); 7.58 (d, 2H); and 8.22 (d, 2H) ppm.

reactant | p-nitrobenzyl 2-(4-ethylthio-2-oxo-1-azetidinyl)-2-hydroxyacetate | C(C)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)=O | C14H16N2O6S
reactant | 2,6-dimethylpyridine | CC1=NC(=CC=C1)C | C7H9N
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-Nitrobenzyl 2-(4-Ethylthio-2-oxo-1-azetidinyl)-2-chloroacetate | 7.12 g | C(C)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Cl)=O | C14H15ClN2O5S
